US05155108
Production of 2-chloro-6-[(3-sulfamoylpropyl)thio]imidazo[1,2-b]pyridazine
To a solution of 1.57 g of 3-chloro-1-propanesulfonamide in 20 ml of methanol was added 20 ml of 2N-potassium hydrogensulfide, followed by heating at 70° C. for 50 minutes. Further, 1.48 g of 28% sodium methoxide-methanol solution and 1.32 g of 2,6-dichloroimidazo[1,2-b]pyridazine [Japanese Unexamined Patent Publication No. SHO 64(1989)-38092] were added to the reaction mixture, and refluxed at 100° C. for 3 hours. The mixture was concentrated under reduced pressure. Then, the residue to which was 20 ml of water was added was adjusted to pH 7.0 with 1N-hydrochloric acid. The precipitated crystals were collected by filtration and subjected to a silica gel column chromatography, eluting with chloroform and methanol (50:1). The corresponding combined fractions were concentrated, and the residue was recrystallized to obtain 1.1 g of the title compound.

reactant | 3-chloro-1-propanesulfonamide | 1.57 g | ClCCCS(=O)(=O)N | C3H8ClNO2S
reactant | potassium hydrogensulfide | S.[K]
reactant | sodium methoxide methanol | 1.48 g | C[O-].[Na+].CO
reactant | 2,6-dichloroimidazo[1,2-b]pyridazine | 1.32 g | ClC=1N=C2N(N=C(C=C2)Cl)C1 | C6H3Cl2N3
solvent | methanol | 20 ml | CO | CH4O
product | 2-chloro-6-[(3-sulfamoylpropyl)thio]imidazo[1,2-b]pyridazine | 1.1 g | ClC=1N=C2N(N=C(C=C2)SCCCS(N)(=O)=O)C1 | C9H11ClN4O2S2
